US07723333B2
2-tert-Butyl-4-[(2-phenoxyethyl)amino]-5-phenylisothiazol-3(2H)-one 1,1-dioxide
The title compound was prepared as described for Example 24 from (2-phenoxyethyl)amine and 2-tert-butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide. The residue was purified by silica gel column chromatography (Horizons Biotage) using 15-20% EtOAc in petroleum ether 40-60° C. as eluent to give the title compound (0.026 g, 13%). 1H NMR (500 MHz CDCl3): δ 7.60-7.51 (m, 2H), 4.72-7.42 (m, 2H), 7.29 (t, 2H), 6.99 (t, 1H), 6.84 (d, 2H), 5.67 (t, 1H), 3.89 (t, 2H), 3.25 (q, 2H), 1.75 (s, 9H); 13C NMR (125 MHz CDCl3): δ 159.7, 158.3, 135.2, 131.7, 129.5, 129.8, 129.0, 125.2, 121.7, 114.7, 108.1, 65.9, 61.8, 43.5, 27.8; Mass Spectrum M+H+ 401.

reactant | (2-phenoxyethyl)amine | O(C1=CC=CC=C1)CCN | C8H11NO
reactant | 2-tert-butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide | C(C)(C)(C)N1S(C(=C(C1=O)Cl)C1=CC=CC=C1)(=O)=O | C13H14ClNO3S
product | 2-tert-Butyl-4-[(2-phenoxyethyl)amino]-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.026 g, 13% | C(C)(C)(C)N1S(C(=C(C1=O)NCCOC1=CC=CC=C1)C1=CC=CC=C1)(=O)=O | C21H24N2O4S
